US07192943B2
To a solution of di-tert-butyl {[((1S)-2-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-1-{[(tert-butoxycarbonyl)amino]methyl}-2-oxoethyl)amino]methylylidene}biscarbamate (1.72 g) in dichloromethane (17 ml) was added trityl chloride (931 mg). To the mixture was added triethylamine (0.53 ml) dropwise. The mixture was stirred at room temperature for 1 hour. The reaction mixture was dissolved in ethyl acetate. The solution was washed with water and brine. The extract was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel to give di-tert-butyl {(Z)-[((1S)-{[(tert-butoxycarbonyl)amino]methyl}-2-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-2-oxoethyl)amino]methylylidene}biscarbamate (2.25 g).

reactant | di-tert-butyl {[((1S)-2-[(5-amino-1-methyl-1H-pyrazol-4-yl)amino]-1-{[(tert-butoxycarbonyl)amino]methyl}-2-oxoethyl)amino]methylylidene}biscarbamate | 1.72 g | NC1=C(C=NN1C)NC([C@H](CNC(=O)OC(C)(C)C)NC(=NC(OC(C)(C)C)=O)NC(OC(C)(C)C)=O)=O | C23H40N8O7
reactant | trityl chloride | 931 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 0.53 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 17 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | di-tert-butyl {(Z)-[((1S)-{[(tert-butoxycarbonyl)amino]methyl}-2-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-2-oxoethyl)amino]methylylidene}biscarbamate | 2.25 g | C(C)(C)(C)OC(=O)NC[C@@H](C(=O)NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)N/C(=N/C(OC(C)(C)C)=O)/NC(OC(C)(C)C)=O | C42H54N8O7
